US08183289B2
Isobutyl nitrite (0.0751 ml, 0.634 mmol) was diluted with DMF (1 mL), placed under nitrogen and heated to 60° C. Methyl 2-(4-(4-((4-chlorophenethyl)carbamoyl)-2-aminophenoxy)-3-chlorophenyl)acetate (100 mg, 0.211 mmol) in DMF (1 mL) was added dropwise and the reaction was stirred for 1 hour. The reaction was cooled, diluted with ethyl acetate and washed with 2N HCl, saturated sodium bicarbonate and brine. The organic layer was dried over MgSO4, filtered and concentrated. The material was purified using a biotage 12i column, eluting with DCM:MeOH (99:1) to yield methyl 2-(4-(4-((4-chlorophenethyl)carbamoyl)phenoxy)-3-chlorophenyl)acetate (70 mg, 72.3% yield).

reactant | Isobutyl nitrite | 0.634 mmol, 0.0751 ml | N(=O)OCC(C)C | C4H9NO2
reactant | Methyl 2-(4-(4-((4-chlorophenethyl)carbamoyl)-2-aminophenoxy)-3-chlorophenyl)acetate | 0.211 mmol, 100 mg | ClC1=CC=C(CCNC(=O)C2=CC(=C(OC3=C(C=C(C=C3)CC(=O)OC)Cl)C=C2)N)C=C1 | C24H22Cl2N2O4
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | methyl 2-(4-(4-((4-chlorophenethyl)carbamoyl)phenoxy)-3-chlorophenyl)acetate | 70 mg, 72.3% yield | ClC1=CC=C(CCNC(=O)C2=CC=C(OC3=C(C=C(C=C3)CC(=O)OC)Cl)C=C2)C=C1 | C24H21Cl2NO4
